US05945428
1,2-Dihydro-1'-methyl-1-(methylsulfonyl)-spiro[3H-indole-3,4'-piperidine]
Dissolve 1,2-dihydro-1'-methyl-spiro[3H-indole-3,4'-piperidine] (3.0 g, 14.8 mmoles) in dry CH2Cl2 (25 ml) and cool under N2 in an ice bath. Add, dropwise, methane sulfonyl chloride (1.5 ml, 19.3 mmoles), followed by ethyl diisopropyl amine (5.0 ml, 28.7 mmoles). Warm to room temperature and stir overnight. Dilute the solution to 100 ml with CH2Cl2. Wash the solution with saturated aqueous NaHCO3 (4×25 ml), then with water. Dry solution with anhydrous Na2SO4, then remove the solvent using reduced pressure. Purify the resulting reaction mixture by flash chromatography (SiO2) using 5% MeOH(NH3)/EtOAc as eluent. Yield: 3.37 g (81%) of the title compound.

reactant | 1,2-dihydro-1'-methyl-spiro[3H-indole-3,4'-piperidine] | 14.8 mmoles, 3.0 g | CN1CCC2(CC1)CNC1=CC=CC=C12 | C13H18N2
reactant | methane sulfonyl chloride | 19.3 mmoles, 1.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl diisopropyl amine | 28.7 mmoles, 5.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 1,2-Dihydro-1'-methyl-1-(methylsulfonyl)-spiro[3H-indole-3,4'-piperidine] | Yield: 3.37 g, 81% | CN1CCC2(CC1)CN(C1=CC=CC=C12)S(=O)(=O)C | C14H20N2O2S
